US07173151B2
tert-Butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)butyrate
1.65 g of tert-butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)but-2-enoate are dissolved in 50 ml of methanol, and 100 mg of Perlmans catalyst are added. The mixture is stirred under an atmosphere of hydrogen for 24 hours. The catalyst is filtered off through Celite, and the filtrate is then concentrated under reduced pressure. This gives 1.49 g of tert-butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)butyrate as a colorless oil. C16H30O3 (270.40), Rf(n-heptane:ethyl acetate=5:1)=0.10.

reactant | tert-butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)but-2-enoate | 1.65 g | C(C)C(C(=O)OC(C)(C)C)=CC[C@@H]1C[C@@H](CCC1)O | C16H28O3
solvent | methanol | 50 ml | CO | CH4O
product | tert-Butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)butyrate | C(C)C(C(=O)OC(C)(C)C)CC[C@@H]1C[C@@H](CCC1)O | C16H30O3
